US04512924
4.5 g of methyl 2-bromo-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (2 racemates) and 1.58 g of sodium azide in 30 ml of acetone were stirred and heated under reflux for 48 hours. The mixture was evaporated and the residue was partitioned between dichloromethane and water. The organic phase was separated, dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel. Elution with diethyl ether/methanol (19:1, v/v) gave firstly 2.5 g (65%) of methyl 2-azido-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (racemate A) in the form of a white solid of melting point 92°-93° C. (from ethyl acetate/n-hexane) and secondly 1.08 g (28%) of methyl 2-azido-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (racemate B) in the form of a white solid of melting point 70°-71.5° C. (from diethyl ether/n-hexane).

reactant | methyl 2-bromo-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 4.5 g | BrC1C(N2N(CCCC2C(=O)OC)C1)=O | C9H13BrN2O3
reactant | sodium azide | 1.58 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | methyl 2-azido-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 1.08 g, 28% | N(=[N+]=[N-])C1C(N2N(CCCC2C(=O)OC)C1)=O | C9H13N5O3
